US09315521B2
6-methyl-2-[(pyrimidin-2-ylmethyl)sulfanyl]pyrimidin-4-ol (100 mg, 427 μmol) was stirred in methanol (10 mL), and a solution of 4 N HCl in dioxane (320 μL, 1.28 mmol) was added dropwise at 0° C. The mixture was stirred for 20 minutes at room temperature. The solvent was removed by evaporation, and the residue was triturated with diethyl ether, filtered, washed with ether, and dried in vacuo to afford 6-methyl-2-[(pyrimidin-2-ylmethyl)sulfanyl]pyrimidin-4-ol dihydrochloride (105 mg, 80% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.15 (s, 3H), 4.68 (s, 2H), 6.05 (bs, 1H), 7.44 (t, J=4.9 Hz, 1H), 8.79 (d, J=4.9 Hz, 2H); LRMS (ES4) m/z 235 (100%, M+1).

reactant | 6-methyl-2-[(pyrimidin-2-ylmethyl)sulfanyl]pyrimidin-4-ol | 427 μmol, 100 mg | CC1=CC(=NC(=N1)SCC1=NC=CC=N1)O | C10H10N4OS
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 1.28 mmol, 320 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
product | 6-methyl-2-[(pyrimidin-2-ylmethyl)sulfanyl]pyrimidin-4-ol dihydrochloride | 105 mg, 80% yield | Cl.Cl.CC1=CC(=NC(=N1)SCC1=NC=CC=N1)O | InChI=1S/C10H10N4OS.2ClH/c1-7-5-9(15)14-10(13-7)16-6-8-11-3-2-4-12-8;;/h2-5H,6H2,1H3,(H,13,14,15);2*1H
